Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
Gait imbalance, vertigo
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
The patient is a ___ right handed previously healthy
male transferred from OSH with acute right cerebellar infarct on
brain MRI.  He had been in his usual state of good health until
11:30 pm on ___ when he had an episode of dizziness,
sweating, and nausea and vomiting.  He described the dizziness 
as
both lightheadedness and not being able to tell up from down; he
never has experienced anything like this before.  He also had a
feeling of being too weak to walk.   He felt very tired.  His
symptoms of dizziness and sweating resolved after being brought
to the OSH via EMS.  However, he did continue to have nausea and
vomiting and was unable to keep down soup.  He has no appetite. 
During the  day, he developed a posterior headache which he 
rates
a 7 out of 10.  The work-up at OSH included MRI/MRA showing 
right
___ territory infarct with question of  possible R vertebral
artery dissection which could not be ruled out.  He was
transferred to ___ ICU for further management.

 NIHStroke Scale score was 0:  
1a. Level of Consciousness: 0  
1b. LOC Question: 0  
1c. LOC Commands: 0  
2. Best gaze: 0  
3. Visual fields: 0  
4. Facial palsy: 0  
5a. Motor arm, left: 0  
5b. Motor arm, right: 0  
6a. Motor leg, left: 0  
6b. Motor leg, right: 0  
7. Limb Ataxia: 0  
8. Sensory: 0  
9. Language: 0  
10. Dysarthria: 0  
11. Extinction and Neglect: 0  

On neuro ROS, the pt denies loss of vision, blurred vision,
diplopia, dysarthria, dysphagia, lightheadedness, tinnitus or
hearing difficulty. Denies difficulties producing or
comprehending speech.  Denies focal weakness, numbness,
parasthesiae. No bowel or bladder incontinence or retention. 

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies diarrhea, constipation or abdominal pain. 
No recent change in bowel or bladder habits.  No dysuria.  
Denies
arthralgias or myalgias. Denies rash. No history of heavy
lifting. Has never seen a ___.

 
Past Medical History:
- History of vertigo ___ years ago
-s/p right knee surgery for torn meniscus

 
Social History:
___
Family History:
His father had a heart attack in his mid ___ and died
of brain cancer in his ___.  His mother had hypertension.  No
history of stroke.

 
Physical Exam:
Vitals: T: 98.2 P: 96 R: 16  BP:169/90  
General: Awake, cooperative, NAD. 
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx 
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity 
Pulmonary: Lungs CTA bilaterally without R/R/W 
Cardiac: RRR, nl. S1S2, no M/R/G noted 
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted. 
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally. 
Skin: no rashes or lesions noted. 

Neurologic: 
-Mental Status: Alert, oriented x 3.  Able to relate history
without difficulty.  Attentive, able to name ___ backward 
without
difficulty.  Language is fluent with intact repetition and
comprehension.  Normal prosody.  There were no paraphasic 
errors.
Pt. was able to name both high and low frequency objects.  Able
to read without difficulty.  Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt. was able to
register 3 objects and recall ___ at 5 minutes.  The pt. had 
good
knowledge of current events.  There was no evidence of apraxia 
or
neglect. 

-Cranial Nerves: 
I: Olfaction not tested.  
II: PERRL 3 to 2mm and brisk.  VFF to confrontation. Funduscopic
exam revealed no papilledema, exudates, or hemorrhages. 
III, IV, VI: EOMI without nystagmus.  Normal saccades. 
V: Facial sensation intact to light touch. 
VII: No facial droop, facial musculature symmetric. 
VIII: Hearing intact to finger-rub bilaterally.  
IX, X: Palate elevates symmetrically.  
XI: ___ strength in trapezii and SCM bilaterally. 
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. 
No adventitious movements, such as tremor, noted. No asterixis
noted. 
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___   ___  5   5    5  5     5     5   5 
R  5    ___   ___  5   5    5  5     5     5   5 

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.

-DTRs: 
  Bi Tri ___ Pat Ach 
L  2  2    2    2   1 
R  2  2    2    2   1 
Plantar response was flexor bilaterally. 

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally. 

-Gait: not tested

On exam next morning: patient had very subtle dysmteria on FNF
 
Pertinent Results:
___ 11:52PM BLOOD WBC-8.8 RBC-4.43* Hgb-13.5* Hct-39.4* 
MCV-89 MCH-30.6 MCHC-34.4 RDW-13.1 Plt ___
___ 06:01PM BLOOD ___ 11:52PM BLOOD Glucose-111* UreaN-13 Creat-0.9 Na-142 
K-3.8 Cl-104 HCO3-27 AnGap-15
___ 01:47AM BLOOD ALT-19 AST-18 CK(CPK)-58 AlkPhos-65 
TotBili-0.8
___ 11:52PM BLOOD Calcium-8.6 Phos-2.7 Mg-2.0
___ 01:47AM BLOOD %HbA1c-5.6
___ 03:45AM BLOOD WBC-7.9 RBC-4.81 Hgb-14.7 Hct-42.7 MCV-89 
MCH-30.5 MCHC-34.4 RDW-13.0 Plt ___
___ 11:52PM BLOOD WBC-8.8 RBC-4.43* Hgb-13.5* Hct-39.4* 
MCV-89 MCH-30.6 MCHC-34.4 RDW-13.1 Plt ___
___ 06:01PM BLOOD WBC-9.0 RBC-4.63 Hgb-13.9* Hct-40.8 
MCV-88 MCH-30.0 MCHC-34.1 RDW-13.1 Plt ___
___ 09:25AM BLOOD PTT-61.1*
___ 03:45AM BLOOD Plt ___
___ 03:45AM BLOOD ___ PTT-68.8* ___
___ 08:55PM BLOOD ___ PTT-59.9* ___
___ 12:00PM BLOOD ___ PTT-74.4* ___
___ 05:55AM BLOOD ___ PTT-65.8* ___
___ 11:52PM BLOOD Plt ___
___ 06:01PM BLOOD ___ 06:01PM BLOOD AT III-88 ProtCFn-118 ProtSFn-100
___ 06:01PM BLOOD Lupus-NEG
___ 01:47AM BLOOD %HbA1c-5.6
___ 01:47AM BLOOD Triglyc-85 HDL-45 CHOL/HD-4.3 
LDLcalc-130*
___ 01:47AM BLOOD TSH-0.64

Imaging:

MRI/A head/neck: ___
IMPRESSION: 
  
1. Subacute medial right cerebellar hemisphere infarct in the 
distribution of the posterior inferior cerebellar artery. 
  
2. Probable thrombus within the V3 and V4 segments of the right 
vertebral 
artery; however, dissection cannot be definitively excluded. 
Recommend CTA of the neck for further evaluation. 
  
3. Sinus disease as decribed above, the activity of which is to 
be determined 
clinically. 
  
Echo ___:
The left atrium and right atrium are normal in cavity size. The 
interatrial septum is aneurysmal. A left-to-right shunt across 
the superior portion of the interatrial septum is seen at rest 
c/w a secundum type atrial septal defect. Multiple fenestrations 
are suggested (clip 94) There is mild symmetric left ventricular 
hypertrophy with normal cavity size and regional/global systolic 
function (LVEF>55%). Transmitral and tissue Doppler imaging 
suggests normal diastolic function, and a normal left 
ventricular filling pressure (PCWP<12mmHg). The right 
ventricular cavity is mildly dilated with normal free wall 
contractility. The aortic root is mildly dilated at the sinus 
level. The aortic valve leaflets (3) appear structurally normal 
with good leaflet excursion and no aortic regurgitation. The 
mitral valve leaflets are structurally normal. There is no 
mitral valve prolapse. Mild (1+) mitral regurgitation is seen. 
The estimated pulmonary artery systolic pressure is high normal. 
There is no pericardial effusion. 

IMPRESSION: Atrial septal defect with prominent left-to-right 
flow and dilated right ventricle suggesting a signicant 
intracardiac shunt. Mild mitral regurgitation. Mild symmetric 
left ventricular hypertrophy with preserved global and regional 
biventricular systolic function. Dilated ascending aorta.
If clinically indicated, a TEE would be best able to better 
define the interatrial septum. A cardiac MRI would be best able 
to quantify the intracardiac shunt.

Lower extremity dopplers (___):
IMPRESSION: No evidence of bilateral lower extremity DVT.

CTA head/neck ___

IMPRESSION: 
  
1. Hyperdense distal right vertebral artery on pre-contrast 
images which does 
not opacify, likely secondary to thrombus as seen on prior MRA. 
Lack of 
appropriate opacification secondary to previously described 
technical failure 
limits the ability of the current examination to determine 
whether a right 
vertebral artery dissection is present. Repeat examination with 
contrast 
injection into the right upper extremity may be helpful for 
further 
evaluation. 
  
2. Right cerebellar infarct as seen on prior MRI. 
  
Findings discussed with Dr. ___ at 04:45 p.m. on ___. 
  
The study and the report were reviewed by the staff radiologist. 

  

 
Brief Hospital Course:
The patient is a ___ right handed previously healthy 
male transferred from OSH with acute right cerebellar infarct in 
territory of right ___.  He presented to OSH after having an 
episode of dizziness, sweating, and nausea and vomiting.  He 
also had a feeling of being too weak to walk.   His neurologic 
exam is normal with the exception of very subtle dysmetria on 
the R side.  While at the OSH, after the administration of a 
nitro patch the patient developed an occiptal headache that was 
constant, with some relief with NSAIDs and tylenol.  

He was transferred to the ___ ICU, for concern about 
verterbral artery dissection and concern for possible edema in 
the posterior fossa.  A MRI/MRA was obtain that confirmed the 
location of a cerebellar infarct.  The MRA showed an occluded 
right vertebral artery.  It could not be determined from the fat 
suppression images if there was just an occlusion of the 
vertebral artery or a dissection.  An echo was also obtained 
which showed a moderate ASD with left to right shunting, with 
some dilation of the right ventricle.  Given this finding and 
the concern for a possible dissection, the decision was made to 
start the patient on a heparin drip with a bridge to coumadin.  
The patient did not have evidence on lower extremity doppler of 
any DVT.  A hyper coagulable workup was initiated.  He had 
negative dopplers of his lower extremities.  A follow up CTA was 
performed but the contrast was injected on the left side, and 
there was not significant enough flow to get a good image of the 
right vertebral artery. 

Cardiology was consulted and determined that the ASD would meet 
criteria for repair.  However they wanted to delay this repair 
until the patient has had his full course of coumadin.

The patient was transferred out of the unit to the floor on 
___. He was closely monitored on floor. He was started on 
lovenox injections for anticoagulation and put on coumadin, with 
goal INR of ___. He was advised to stop lovenox once the INR 
becomes therapeutic and follow with primary care doctor for dose 
adustemnt of couamdin. LDL was high 130 and he was started on 
simvastatin for that. He was advised to follow with cardiology 
for further management of ASD.

He was seen by physical therapy who suggested outpatient ___ for 
gait and functional stability for few days. His exam at 
discharge was significant for very mild cerebellar signs on 
right side.

 
Medications on Admission:
none
 
Discharge Medications:
1. Enoxaparin 100 mg/mL Syringe Sig: Ninety (90)  Subcutaneous 
BID (2 times a day) for 7 days: stop taking Lovenox, once your 
INR becomes therapeutic ___. .
Disp:*14 14* Refills:*0*
2. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
every six (6) hours as needed for pain for 7 days.
Disp:*30 Tablet(s)* Refills:*0*
3. Simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).
Disp:*60 Tablet(s)* Refills:*2*
4. Warfarin 5 mg Tablet Sig: One (1) Tablet PO Q4PM ().
Disp:*30 Tablet(s)* Refills:*2*
5. Outpatient Lab Work
___ on ___ and on ___ and fax results to ___, MD 
at ___ 
6. Outpatient Physical Therapy

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Right cerebellar stroke, possible dissection of the right 
verterbral artery
- Atrial septal defect with septal aneurysm

 
Discharge Condition:
Mental Status:Clear and coherent
Level of Consciousness:Alert and interactive
Activity Status:Ambulatory - Independent

 
Discharge Instructions:
You were admitted to an outside hospital with an episode of 
vertigo, nausea, vomiting and ataxia.  At the outside hospital 
you were found to have a stroke on the right side of your 
cerebellum.  You also developed a mild headache.  You were 
transferred to the ___ intensive care unit for further workup. 
 Here you had imiaging that confirmed you stroke.  Imaging of 
your blood vessels showed that there was a blockage of your 
right vertebral artery (on of the arteries that supplies your 
brain).  We could not determine if it was just blocked or there 
was a tear in the vessel

By the time you arrived in our ICU, your symptoms had largely 
resolved.  You were left with a very subtle problem with 
coordination on your right side. You were transfered to floor 
and started on Lovenox injections and coumadin , a blood 
thinner. You will be stopping lovenox injections once your INR 
becomes ___.
 
Followup Instructions:
___